US05922717
b) Benzyl 2-(4-aminophenoxy)acetate
27.0 g (0.094 mmol) of benzyl 2-(4-nitrophenoxy)acetate are dissolved in 1200 ml of methanol and hydrogenated in the presence of 5 g of rhodium-on-charcoal with hydrogen at room temperature under 3 bar. After about 2 hours, the uptake of hydrogen has ended and, after the catalyst has been filtered off with suction, the mother liquor is concentrated to dryness in vacuo. The residue is suspended in about 300 ml of methylene chloride and, after filtration, the filtrate is concentrated to dryness.

reactant | benzyl 2-(4-nitrophenoxy)acetate | 0.094 mmol, 27.0 g | [N+](=O)([O-])C1=CC=C(OCC(=O)OCC2=CC=CC=C2)C=C1 | C15H13NO5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 1200 ml | CO | CH4O
product | Benzyl 2-(4-aminophenoxy)acetate | NC1=CC=C(OCC(=O)OCC2=CC=CC=C2)C=C1 | C15H15NO3
